US07718693B2
1-(2,2-dimethylpropyl)-5-oxoproline (0.100 g, 0.5 mmol, prepared as described below) was dissolved in dichloromethane (5 ml) and to this was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.191 g, 1 mmol), and 1-hydroxybenzotriazole (0.135 g, 1 mmol). The mixture was stirred for 30 minutes at room temperature and then {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine (0.209 g, 1 mmol) was added and the mixture was stirred overnight at room temperature. The mixture was then washed sequentially with water, 3N aqueous citric acid, and three more times with water then dried by filtering through a hydromatrix cartridge (Varian 5 g). The solvent was then evaporated and the residue was purified by mass-directed automated HPLC to give pure N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-1-(2,2-dimethylpropyl)-5-oxoprolinamide.

reactant | 1-(2,2-dimethylpropyl)-5-oxoproline | 0.5 mmol, 0.100 g | CC(CN1[C@H](C(=O)O)CCC1=O)(C)C | C10H17NO3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1 mmol, 0.191 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 1 mmol, 0.135 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine | 1 mmol, 0.209 g | ClC1=C(C=CC=C1C(F)(F)F)CN | C8H7ClF3N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-1-(2,2-dimethylpropyl)-5-oxoprolinamide | ClC1=C(C=CC=C1C(F)(F)F)CNC([C@H]1N(C(CC1)=O)CC(C)(C)C)=O | C18H22ClF3N2O2
